US06051712
A solution of 1.50 g (5.14 mmol) of tert-butyl (3RS,4RS)-3-hydroxy-4-(4-hydroxymethyl-phenyl)-piperidine-1-carboxylate, 1.73 g (6.16 mmol) of triphenylchloromethane and 674 mg (6.68 mmol) of triethylamine in 20 ml of methylene chloride was stirred at room temperature for 5 hours. For the working-up, the reaction mixture was washed with 10 ml of water and 10 ml of saturated sodium hydrogen carbonate solution, the organic phase was dried over sodium sulphate and evaporated under reduced pressure. The crude product was chromatographed on silica gel using a 95:5 mixture of toluene and ethyl acetate as the eluent. There were obtained 2.08 g (77.5% of theory) of tert-butyl (3RS,4RS)-3-hydroxy-4-(4-trityloxymethyl-phenyl)-piperidine-1-carboxylate as a colourless foam; MS: 567 (M+NH4)+.

reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-(4-hydroxymethyl-phenyl)-piperidine-1-carboxylate | 5.14 mmol, 1.50 g | OC1CN(CCC1C1=CC=C(C=C1)CO)C(=O)OC(C)(C)C | C17H25NO4
reactant | triphenylchloromethane | 6.16 mmol, 1.73 g | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | triethylamine | 6.68 mmol, 674 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (3RS,4RS)-3-hydroxy-4-(4-trityloxymethyl-phenyl)-piperidine-1-carboxylate | 2.08 g, 77.5% | OC1CN(CCC1C1=CC=C(C=C1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C36H39NO4
